Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tegaderm Frame Style / Prinivil / Reglan / Levofloxacin
 
Attending: ___
 
Chief Complaint:
Hypoglycemia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Reliability: Patient was AAOx3 however did endorse seeing an 
"extra man" in the room when asked how many persons where 
present in room. History also obtained from patient's wife and 
medical records from rehab and ___.  
.
Patient is ___ male with ESRD status post cadaver kidney
transplant in ___ on tacrolimus/prednisone, type 1 diabetes,
CAD status post CABG x4, PVD status post right popliteal stent 
and ___ right toe amputation in addition to history of MRSA 
osteomyelitis,
chronic lower extremity nonhealing ulcers, history of multiple
DVTs on Coumadin with IVC filter, diastolic heart failure, 
multiple prior C. difficile episodes in ___, and ___ 
among other conditions that presents from rehab with confusion 
and low oxygen saturation. 
.
Patient was recently admitted to ___ in ___ for 
nausea/vomiting with eating with GI work-up revealing 
gastroparesis and C. difficile diarrhea treated with PO 
vancomycin. 
.
At some point, he was admitted to rehab for ___. His rehab 
course was complicated by pneumonia and urinary tract infection 
(no culture data available), which were treated with a 7-day 
course of Ceftin (course was started around ___. The 
patient required about ___ L NC while he had pneumonia. 
.
He was in his otherwise normal state of health at rehab until 
about ___ days ago when he needed nebulizer treatments on ___ 
and also developed supplemental oxygen requirement on ___ 
similar to what he needed when he had pneumonia about ___ weeks 
ago. His wife also stated that at baseline his mental status has 
been AAOx3 but he does seem forgetful with hallucinations (e.g. 
little kid hiding in the corner) with any illness and 
dehydration. Of note, he had a CXR on ___ that was compared 
to his prior chest x-ray showing clearing of bilateral 
infiltrates and pneumonia - namely the prominent right perihilar 
infiltrate and small left perihilar infiltrate. 
.
At the ___ rehab, ___ placed him on 100 % NRB for 
hypoxemia (unknown number) with O2 sat in ___. 
.
He was taken to ___ where he was thought to be "really 
confused" with no focal neurological deficits or post-ictal 
state. His O2 sat was low as well (unknown number). He received 
500 cc of fluid and a ? dose of Ceftin. He was transferred to 
___ given that he received a transplant here. 
.
VS prior to transfer from ___ were T 98.8 BP 124/62 HR 
71 RR 22 Glc 169  
.
In the ___, initial VS were: Triage 17:52 0 97.2 52 90/46 16 98% 
4L  
.
He arrived to ___ ___ with relative hypotension with blood 
pressures of 90/40, saturating 96% on 2 L nasal cannula with 
diffuse crackles and wheezes on his lung fields.
.
Of note, recent BP in clinic per webOMR are 88/60, 102/82, 
92/52, 118/80 from past ___ years. BP at rehab on ___ was 
121/80.
.
BP remained stable in ER, required 2 L NC throughout ER course.
.
Labs were performed
- WBC 3.7 Hgb 8.2 (of note baseline ~ 10) Plt 253 with Diff N 
70.9 L 16.5 E 6.6
- INR 2.8 (in setting of coumadin therapy) PTT 44.3
- Na 139 K 5.2 Cl 111 HCO3 23 BUN 17 Cr 1.6 (Cr 1.1-1.2) Glc 83
- cTropnT 0.07
- UA Nit neg pH 6 ___ Mod WBC > 182 bacteria many Epi 0 cast Gr 
13
.
Diagnostic testing was performed:
- ECG: Sinus bradycardia at 52 bpm, NA, NI except QTc 502 ms, no 
ST/T changes or STEMI. Low voltage I, II, III, aVR, aVL, aVF. 
Compared to prior dated ___, rhythm is NSR at 87 bpm, QTc 
427 ms
- CXR (prelim): layering effusion, scarring atelectasis in lower 
base. Cardiomediastinal unchanged. IVC filter seen. 
Impression: Bilateral pleural effusions and cephalization, 
post-surgical changes in right lung without definite 
consolidation.
.
He was given:
- hydrocortisone 100 mg IV x 1 for stress dose steroids 
- cefepime 2 gm IV and vancomycin 1000 mg IV 
- 2 L NS with urine output of 95 mL 
.
VS on transfer: 18:38 53 100/41 17 97% on 2 L NC
.
On arrival to the MICU, the patient was AAOx3 but thought that 
another man was standing behind me - which was not true. He was 
also noted that have Tax 94. Urine output was poor, and he 
received 2 L NS bolus. 
.
He denies any localizing complaints such as cough, abdominal 
pain, dysuria although does admit to low oxygen levels. 
.
Review of systems:
(+) Per HPI; fatigue, shortness of breath x 2 weeks, worsened 
over last week
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes.
 
Past Medical History:
-DVT (multiple) s/p IVC filter ___ on coumadin for life
-CAD s/p CABG and MI; s/p stents
-Chronic dCHF
-HTN
-DM1 with retinopathy, neuropathy, ESRD, R charcot foot in ___
-s/p cadaveric renal transplant in ___ on prednisone and
tacrolimus
-ORIF right arm
-chronic foot ulcer
-amputated right toe
-MRSA right foot with osteomyelitis
-C diff colitis ___
-cryptococcal pna in ___, now on fluconazole suppressive
therapy
-lung nodules
-PVD
-GERD
-b/l cataract surgery,
-s/p pop artery angioplasty in ___
-cellulitis
-chronic osteomyelitis followed in ID clinico
-Anemia
-Arteriogram showing R fem/tib and L tib dz and vascular plans 
to consider intervention as outpatient.
 
Social History:
___
Family History:
FAMILY HISTORY:
DM type II in father and paternal grandfather. Mother had "heart 

disease".    

 
Physical Exam:
Admission PE:
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: supple, JVP not elevated, shoddy lymphadenopathy of 
anterior cervical chain, more prominent on left than right
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: decreased inspiratory effort, mild rhonchi at right base, 
however difficult to appreciate given limited exam.
Abdomen: distended, non-tender, difficult to appreciate 
organomegaly given firmness of abdomen.
GU: no foley
Ext: multiple ulcers over ___ bilaterally in various stages of 
healing, 2+ edema ___ b/l, multiple scars present, amputation 
of digits present.
Neuro: grossly normal sensation, non focal exam

Discharge PE:
VS: T 98, Tm 98.3, 60-70s, 120-140s/50-70s, ___, 98-100% RA
Glucose: 117-207
General: Alert, oriented, in NAD
HEENT: some bloody appearance to R ___
CV: RRR, no murmurs 
Lungs: Inspiratory rales at L base, otherwise CTAB 
Abdomen: soft, non-tender, nondistended, +BS
Ext: multiple ulcers over ___ bilaterally in various stages of 
healing with dressing in place 

 
Pertinent Results:
ADMISSION LABS
___ 07:33PM URINE  HOURS-RANDOM UREA N-517 CREAT-240 
SODIUM-69 POTASSIUM-98 CHLORIDE-43
___ 07:33PM URINE  OSMOLAL-576
___ 06:40PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-MOD
___ 06:40PM URINE  RBC-2 WBC->182* BACTERIA-MANY YEAST-NONE 
EPI-0
___ 06:30PM   LACTATE-1.2
___ 06:26PM   GLUCOSE-86 UREA N-17 CREAT-1.6* SODIUM-139 
POTASSIUM-5.2* CHLORIDE-111* TOTAL CO2-23 ANION GAP-10
___ 06:26PM   cTropnT-0.07*
___ 06:26PM   TSH-8.9*
___ 06:26PM   CORTISOL-6.9
___ 06:26PM   WBC-3.7* RBC-3.36* HGB-8.2* HCT-26.7* MCV-80* 
MCH-24.5* MCHC-30.7* RDW-15.6*
___ 06:26PM   NEUTS-70.9* LYMPHS-16.5* MONOS-5.8 EOS-6.6* 
BASOS-0.3
___ 06:26PM   PLT COUNT-253
___ 06:26PM   ___ PTT-44.3* ___

Micro:
ucx ___:
 ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

urine legionella Ag: neg
CMV viral load undetectable

CXR ___:
Bilateral pleural effusions and pulmonary vascular congestion. 
Post-surgical changes seen in the right lung

TTE ___:
The left atrium is mildly dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF 65%). However, the inferior wall may be mildly 
hypokinetic. Tissue Doppler imaging suggests an increased left 
ventricular filling pressure (PCWP>18mmHg). Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
mildly dilated at the sinus level. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion.

Transplant renal U/S ___:
1.  Interval increase in elevated intrarenal resistive indices 
with no
discernable antegrade diastolic flow noted throughout.  In 
addition, there is a notable increase in peak systolic velocity 
of main renal artery with normal waveforms and velocity 
identified in the left iliac artery. No stenosis identified.
2. Extensive transplanted interlobar renal artery and main renal 
artery
calcifications.
3. No hydronephrosis, masses, or perinephric fluid collection 
evident.

Discharge Labs:
___ 05:55AM BLOOD WBC-4.6 RBC-3.92* Hgb-9.4* Hct-31.0* 
MCV-79* MCH-24.1* MCHC-30.3* RDW-15.4 Plt ___
___ 05:55AM BLOOD ___ PTT-44.3* ___
___ 05:55AM BLOOD Glucose-152* UreaN-14 Creat-1.1 Na-139 
K-4.8 Cl-110* HCO3-24 AnGap-10
___ 06:05AM BLOOD ALT-19 AST-29 LD(LDH)-180 AlkPhos-207* 
TotBili-0.1
___ 05:55AM BLOOD Calcium-8.1* Phos-2.6* Mg-1.___ male with ESRD status post cadaver kidney transplant 
in ___ on tacrolimus/prednisone, DM1, CAD s/p MI and CABG, PVD 
with chronic lower extremity nonhealing ulcers, history of 
multiple DVTs on coumadin, diastolic heart failuire among other 
conditions that presents with confusion, low oxygenation 
saturations, acute renal failure, and relative hypotension 
concerning for sepsis from a urinary source. 
.
Acute diagnoses:
#Sepsis from UTI source: Patient is immunocompromised in setting 
of kidney transplant and presents with leukopenia, hypothermia 
in setting of positive UA/UCx suggestive of sepsis from a 
urinary source. Prior urine culture data suggestive of E. coli 
and Proteus that are resistant to certain drug classes. CXR 
without consolidation.  Host factors include immunosuppresion 
with tacrolimus/prednisone, HCAP exposure. On presentation, pt 
met SIRS criteria, with lactate elevation and ___.  He was 
treated with fluid resuscitation and empiric abx (Vanc/Zosyn).  
MICU COURSE: patient was admitted to the MICU for respiratory 
distress and relative hypotension in setting of Sepsis of 
urinary source and ___ possibly ___ renal transplant failure. Pt 
on vanc/cefepime during MICU adm. Pt had improvement in his 
respiratory status and was hemodynamically stable at the time of 
transfer from the MICU. Transitioned to IV ceftriaxone. Ucx grew 
e coli. Blood cultures were negative. Pt transitioned to PO 
cefpodoxime ___ with plan for 14d course total of ABX to end 
___. 
.
# Dyspnea/hypoxia: Patient is reporting a subacute course of 
dyspnea with acute flare starting on admission with new O2 
requirements. Although immobile, he is low-risk (1.3%) based on 
Wells score. Troponin - and ECG with no acute changes. BNP 
elevated, JVD, volume up on exam. Appears patient was right 
sided volume overloaded and improved with some diuresis. 
Secondary consideration would include diaphragmatic contribution 
given prior RUL resection with volume loss.  TTE with no changes 
from prior.  In MICU, pt did not require ventilatory (invasive 
or non-invasive) assistance. Respiratory status improved and pt 
satting 98-100% RA.
.
# Status post kidney transplant with acute renal failure: Pt's 
allograft function was compromised on admission given recent 
baseline Cr 1.1-1.2, rehab lab on ___ Cr 1.4, and admission 
Cr 1.6. His urine output had been marginal. Admission urinalysis 
showing protein 100 with last UA in ___ showing trace protein. 
FeUrea 20.27, prerenal. UA shows granular casts. He may have 
hypotension that has lead to ATN. Urine eosinophils are negative 
speaking against AIN in setting of mild peripheral eosinophilia. 
Secondary consideration is tacrolimus vasoconstriction also 
contributing to ? ATN picture. Creatinine has downtrended after 
fluid resuscitation. UCx positive as above. Lasix 40mg QD 
restarted ___. Renal ultrasound generally unremarkable
.
# Pressure Ulcers: Multiple pressures ulcers: R lateral tibia 
(full thickness), R heal (originally Stage III), L Lateral foot 
(healing stage III-IV). Wound care consulted and patient treated 
per their recs: Remove pressure from area, constant 
repositioning, waffle boots at all times. He has stage I sacral 
ulcer and multiple areas of skin breakdown in lower extremities. 
Sacral coccygeal area blanchable
.
# Immunosuppression: Continued tacrolimus and prednisone. 
Continued bactrim ppx. Followed daily tac levels with goal 
trough between ___. 
.
# Acute toxic-metabolic encephalopathy: home mirtazapine held; 
vitamin B12, RPR, TSH was elevated however T4 was within normal 
limits. BK virus undetected 
.
# Microcytic, Hypochromic anemia: Admission Hgb is 8.2 (of note 
baseline ~ 10). Fe studies c/w anemia of chronic disease (low 
Fe, low transferrin and TIBC, normal ferritin). Last EGD and 
colonoscopy were in ___ with polyps in the sigmoid colon 
(polypectomy) and mild-moderate gastritis (biopsy).  H/H stable. 
Pt initially on Fe supplementation, but discontinued for iron 
studies that seemed more c/w anemia of chronic disease.
.
# Prolonged QTc and Sinus bradycardia: QTc noted to be 502 ms on 
admission ECG. Resolving bradycardia. On telemetry. Resolved 
(QTc down to 430 and no longer bradycardic).
.
# History of multiple DVT. INR max was 6.3 on ___. Most likely 
nutritional deficiency from poor PO intake in the setting of ABX 
use. Patient has a history of difficult to control INR levels. 
No documented dose of coumadin since ___. LFTs WNL. Pt given 5 
mg PO vit K. INR down to 2.4 on day of discharge. Pt to resume 
coumadin at dose of 0.5mg daily with close INR monitoring. 
.
# CAD s/p CABG and MI s/p stents
- continue plavix/aspirin, atorvastatin 
- hold other anti-ischemic regimen
.
# T1DM: pt with hypoglycemia with bld glucose down to ___. 
Lantus decreased to 8, then 4 units with stable blood glucose in 
the 100s. Discharged pt on 6u QHS and would continue to monitor 
and adjust as needed. He was also continued on a humalog sliding 
scale.  
.
# History of cryptococcal pneumonia: continued fluconazole 
suppressive therapy  
.
# BPH: tamsulosin held, will restart on discharge
.
# HTN: pt restarted on reduced dose of metoprolol. Pt discharged 
with plan to restart amlodipine at rehab as BPs improved during 
hospitalization. Pt discharged off imdur. 
.
Transitional Issues: 
# Full Code
# Pt will return to rehab.
 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from 
___ rehab list.
1. Amlodipine 5 mg PO DAILY 
hold for sbp<100 or hr<60 
2. Clopidogrel 75 mg PO DAILY 
3. Fluconazole 200 mg PO Q24H 
4. Glargine 15 Units Bedtime
Insulin SC Sliding Scale using novolog Insulin
5. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
hodl for sbp<100 or hr<60 
6. Metoprolol Tartrate 50 mg PO BID 
hold for sbp<100 or hr<60 
7. Mirtazapine 7.5 mg PO HS 
8. PredniSONE 5 mg PO DAILY 
9. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
10. Tacrolimus 0.5 mg PO Q12H 
11. Travatan Z *NF* (travoprost) 0.004 % OS qday 
12. Tamsulosin 0.4 mg PO HS 
13. Actonel *NF* (risedronate) 35 mg Oral q ___ 
14. Nitroglycerin SL 0.3 mg SL PRN chest pain 
15. Senna with Docusate Sodium *NF* (sennosides-docusate sodium) 
8.6-50 mg Oral qhs 
16. Ascorbic Acid ___ mg PO BID 
17. Multivitamins 1 TAB PO DAILY 
18. Acetaminophen 650 mg PO Q4H:PRN pain 
do not exceed 4 g in 24 hour period 
19. Aspirin 81 mg PO DAILY 
20. Atorvastatin 80 mg PO DAILY 
21. Pantoprazole 20 mg PO Q12H 
22. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB/hwheezing 
23. Warfarin 1 mg PO DAILY16 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain 
do not exceed 4 g in 24 hour period 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB/hwheezing 
3. Ascorbic Acid ___ mg PO BID 
4. Atorvastatin 80 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Fluconazole 200 mg PO Q24H 
7. Multivitamins 1 TAB PO DAILY 
8. PredniSONE 5 mg PO DAILY 
9. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
10. Tacrolimus 0.5 mg PO Q12H 
11. Travatan Z *NF* (travoprost) 0.004 % OS qday 
12. Cefpodoxime Proxetil 100 mg PO Q12H 
Total of 14 days (to end ___ 
13. Furosemide 40 mg PO DAILY 
14. Pantoprazole 20 mg PO Q12H 
15. Senna with Docusate Sodium *NF* (sennosides-docusate sodium) 
8.6-50 mg Oral qhs 
16. Tamsulosin 0.4 mg PO HS 
17. Nitroglycerin SL 0.3 mg SL PRN chest pain 
18. Mirtazapine 7.5 mg PO HS 
19. Aspirin 81 mg PO DAILY 
20. Actonel *NF* (risedronate) 35 mg ORAL Q ___ 
21. Metoprolol Tartrate 25 mg PO BID 
hold for SBP < 100 or HR < 60 
22. Miconazole 2% Cream 1 Appl TP BID perineum  
23. Warfarin 0.5 mg PO DAILY16 
24. Glargine 6 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
25. Amlodipine 5 mg PO DAILY 
hold for sbp<100 or hr<60 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
Sepsis 
Urinary Tract Infection
Acute Renal failure 

Secondary Diagnosis 
History of renal transplant 
Coronary Artery Disease 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr ___,

It was a pleasure participating in your care while you were 
admitted to ___.  As you know 
you were admitted because you were confused with worsening of 
your renal function. You were found to have an infection in your 
urinary tract that was likely causing your symptoms. You were 
given antibiotics through the IV and then converted to pills. 
You symptoms improved but you will need to continue taking 
antibiotics for 8 more days (last dose ___.  Your INR was 
also elevated so we held your blood thinner.  This will need to 
restarted once this number improves.

We made the following changes to your medications
1. START Cefpodoxime for 8 more days
2. STOP fludrocortisone
3. STOP isosorbide mononitrate
4. DECREASE metoprolol to 25 mg twice a day  
5. DECREASE lantus to 6 units at night 
6. DECREASE warfarin to 0.5mg daily

You should continue to take all other medications as instructed. 

 
Followup Instructions:
___